US04652584
A solution of 10.0 g (0.038 mole) of 4-hydroxy-3-iodobenzamide in 40 ml of dry DMF was added to a suspension of 0.04 mole of sodium hydride (from 1.9 g of 50% sodium hydride which had been washed free of oil with hexane) in 60 ml of dry DMF at 25° under N2. When bubbling ceased, 30 ml (0.38 mole) of epichlorohydrin was added dropwise. The mixture was heated at 70° C. for 90 min and allowed to stand at 25° C. for 16 hr. The mixture was filtered. The filtrate was concentrated to dryness in vacuo. The residue was dissolved in CH2Cl3. The solution was washed with water and brine, dried (MgSO4) and the solvent evaporated in vacuo. The residue was recrystallized from CH2Cl2 /hexane to give 5.4 g (50% yield) of 3-iodo-4-(oxiranylmethoxy)benzamide, mp 149°-151° C.

reactant | 4-hydroxy-3-iodobenzamide | 0.038 mole, 10.0 g | OC1=C(C=C(C(=O)N)C=C1)I | C7H6INO2
reactant | sodium hydride | 0.04 mole, 1.9 g | [H-].[Na+]
reactant | epichlorohydrin | 0.38 mole, 30 ml | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3-iodo-4-(oxiranylmethoxy)benzamide | 5.4 g, 50% yield | IC=1C=C(C(=O)N)C=CC1OCC1OC1 | C10H10INO3
